US04128658
2-[[[5-(Dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine (2.14 g) and 1,1-bis(methylthio)-2-nitroethene (1.65 g) were refluxed in acetonitrile for 8 hr. Solvents were removed and an ethanolic solution of 2 -methoxyethylamine (0.75 g) added. After refluxing for a further 8 hr, removal of solvents gave an oil. This was purified by column chromatography to give N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-(2-methoxyethyl)-2-nitro-1,1-ethenediamine (1.0 g). NMRτ(CDCl3) 7.73 s (6H); 7-7.5 m (2H); 6.2-7 m (11H); 6.23 s (2H); 3.81 s (2H); 3.42 s (1H).

reactant | 2-[[[5-(Dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine | 2.14 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 1,1-bis(methylthio)-2-nitroethene | 1.65 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-(2-methoxyethyl)-2-nitro-1,1-ethenediamine | 1.0 g | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NCCOC | C15H26N4O4S
